US07612067B2
Preparation of 8-(1-ethyl-propyl)-3-(3-methoxy-5-thiazol-2-yl-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a flask containing 8-(1-ethyl-propyl)-3-(5-iodo-3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.45 g, 0.99 mmol) and PdCl2(dppf) (0.057 g, 0.078 mmol) is added a 0.5 M solution of 2-thiazolylzinc bromide (9.9 mL, 4.94 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (50 mL), washed with sat. NH4Cl (50 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) furnish the title compound (0.29 g, 0.70 mmol, 71%). 1H NMR (CDCl3) δ0.86 (t, J=7.5 Hz, 6H), 1.72-1.90 (m, 4H), 2.51 (s, 3H), 2.53 (s, 3H), 3.28-3.37 (m, 1H), 3.93 (s, 3H), 6.67 (s, 1H), 7.28 (d, J=3.3 Hz, 1H), 7.41 (s, 1H), 7.80 (d, J=3.3 Hz, 1H). LC/MS (m/z): calcd. for C21H24N4OS2 (M+H)+: 413.6; found: 414.3.

reactant | 8-(1-ethyl-propyl)-3-(5-iodo-3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.99 mmol, 0.45 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2OC)I | C18H22IN3OS
reactant | 2-thiazolylzinc bromide | 4.94 mmol, 9.9 mL | [Br-].S1C(=NC=C1)[Zn+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.078 mmol, 0.057 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-3-(3-methoxy-5-thiazol-2-yl-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.70 mmol, 0.29 g, 71% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2OC)C=2SC=CN2 | C21H24N4OS2
